US07071201B2
A 2 M solution (0.47 ml) of a diborane/dimethyl sulfide complex in tetrahydrofuran was added to a solution of 1-(1-benzylpiperidin-4-yl)-6-methoxyindoline-2,3-dione (110 mg) in tetrahydrofuran (2 ml) followed by stirring for 1 hr and then heating under reflux for 4.5 hr. After the completion of the reaction, an aqueous solution of sodium bicarbonate was added to the reaction solution, which was then extracted with ethyl acetate. The ethyl acetate layer was dried over magnesium sulfate andthe solvent was removed. The residue was dissolved in pyridine and stirred for 4.5 hr. After evaporating off pyridine, ethyl acetate and an aqueous solution of sodium bicarbonate were added thereto. The ethyl acetate layer was separated and dried over magnesium sulfate. After distilling off the solvent, the resulting residue was purified by silica gel column chromatography (hexane/ethyl acetate system) to give 1-(1-benzylpiperidin-4-yl)-6-methoxyindole (28 mg) (yield: 28%).

reactant | 1-(1-benzylpiperidin-4-yl)-6-methoxyindoline-2,3-dione | 110 mg | C(C1=CC=CC=C1)N1CCC(CC1)N1C(C(C2=CC=C(C=C12)OC)=O)=O | C21H22N2O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 1-(1-benzylpiperidin-4-yl)-6-methoxyindole | 28 mg, yield: 28% | C(C1=CC=CC=C1)N1CCC(CC1)N1C=CC2=CC=C(C=C12)OC | C21H24N2O
